US07544697B2
A mixture of ethyl 1-benzyl-5-methyl-1H-pyrazole-3-carboxylate (57.57 g, 0.236 mol), concentrated ammonium hydroxide (114 mL), and methanol (114 mL) was heated at 125° C. for 39 hours in a pressure vessel. After cooling to ambient temperature, the vessel was placed in an ice bath and the reaction solution was stirred for 30 minutes until a precipitate formed. The precipitate was isolated by filtration and washed with water to yield 28.22 g of 1-benzyl-5-methyl-1H-pyrazole-3-carboxamide.

reactant | ethyl 1-benzyl-5-methyl-1H-pyrazole-3-carboxylate | 0.236 mol, 57.57 g | C(C1=CC=CC=C1)N1N=C(C=C1C)C(=O)OCC | C14H16N2O2
reactant | ammonium hydroxide | 114 mL | [OH-].[NH4+]
solvent | methanol | 114 mL | CO | CH4O
product | 1-benzyl-5-methyl-1H-pyrazole-3-carboxamide | 28.22 g | C(C1=CC=CC=C1)N1N=C(C=C1C)C(=O)N | C12H13N3O
